US07291631B2
Using General Procedure B: Reaction of the 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester and 1-allyl-1H-benzoimidazole-2-carbaldehyde in CH2Cl2 with NaBH(OAc)3 gave 4-[(1-allyl-1H-benzoimidazol-2-ylmethyl)-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as white foam. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.57-1.65 (m, 2H), 1.86-1.89 (m, 2H), 2.25 (s, 3H), 2.27 (s, 3H), 2.57 (t, 2H, J=12.0 Hz), 2.72 (td, 2H, J=10.5, 3.0 Hz), 3.78 (s, 2H), 3.98 (s, 2H), 4.15-4.17 (m, 2H), 4.53 (d, 2H, J=3.0 Hz), 4.65 (d, 1H, J=18.0 Hz), 4.98 (d, 1H, J=9.0 Hz), 5.51-5.63 (m, 1H), 7.20-7.24 (m, 4H), 7.70-7.73 (m, 1H), 8.19 (s, 1H). Deprotection with TFA using General Procedure F gave (1-allyl-1H-benzoimidazol-2-ylmethyl)-(3,5-dimethyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine as a yellow solid. 1H NMR (CDCl3) δ 1.72 (br t, 2H, J=10.5 Hz), 1.93 (d, 2H, J=11.1 Hz), 2.25 (s, 3H), 2.26 (s, 3H), 2.54 (t, 2H, J=12.0 Hz), 2.69 (t, 1H, J=11.4 Hz), 3.17 (d, 2H, J=11.4 Hz), 3.38 (br s, 2H), 3.82 (s, 2H), 3.99 (s, 2H), 4.55 (s, 2H), 4.65 (d, 1H, J=17.4 Hz), 4.97 (d, 1H, J=10.2 Hz), 5.53-5.62 (m, 1H), 7.20-7.23 (m, 4H), 7.71 (d, 1H, J=4.8 Hz), 8.18 (s, 1H).

reactant | 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=C(C=C1C)C | C18H29N3O2
reactant | 1-allyl-1H-benzoimidazole-2-carbaldehyde | C(C=C)N1C(=NC2=C1C=CC=C2)C=O | C11H10N2O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[(1-allyl-1H-benzoimidazol-2-ylmethyl)-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=C(C=C1C)C)CC1=NC2=C(N1CC=C)C=CC=C2 | C29H39N5O2
